US06552015B2
8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one (6.18g, 26.02 mmol), 3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1] octane (HCl salt) (5.62 g, 21.68 mmol), triethylamine (3.6 ml, 26.02 mmol), p-toluene sulfonic acid (0.74 g, 3.90 mmol) were combined in dimethyl acetamide (38 ml) and heated at 120° C. for 15 hours. The reaction was cooled to room temperature, diluted with H2O and filtered the tan precipitate. Dissolved the tan solid in chloroform (400 ml), dried over magnesium sulfate, and concentrated to an off-white solid. Silica gel flash chromatography using 5% methanol/chloroform as the eluent yielded 8-Chloro-3-{3-[3-(4-chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-propyl}-1H-quinazoline-2,4-dione (8.3 g, 83.3%) as an off-white solid; Mp. 194-196° C. Maleate salt was formed by dissolving the solid in chloroform (100 ml) and maleic acid (2.52 g, 1.2 eq) in ethyl acetate (20 ml) was added. The mix was concentrated and the off-white solid was washed with ethyl acetate to yield maleate salt (8.95 g). A portion was recrystallized from acetonitrile yielding off-white crystalline solid which had the following properties: Mp. 186-188° C.; 1H NMR DMSO-d6 δ: 11.07 (brd s, 1H), 9.50 (brd s, 1H), 7.92 (dd, J=1.2, 6.6 Hz, 1H, 7.79 (dd, J=1.2, 6.6 Hz, 1H), 7.26-7.17 (m, 3H), 6.89 (d, J=9.1 Hz, 2H), 6.00 (s, 2H), 4.09 ( brd s, 2H), 3.99 (t, J=6.6 Hz, 2H), 3.70-3.65 (m, 2H), 3.17-2.98 (m, 4H), 2.20-2.00 (m, 4H), 1.95-1.86 (m, 2H). 13C NMR DMSO-d6 δ: 167.87, 162.14, 150.76, 149.18, 137.06, 136.53, 129.338, 127.26, 123.85, 119.35, 116.84, 116.63, 61.11, 52.08, 49.48, 38.43, 24.28, 23.88. IR (KBr): 3399, 3367, 32223, 3161, 3074, 2967, 2839, 2410, 1904, 1722, 1656, 1615, 1598, 1499, 1458, 1407, 1351, 1314, 1242, 1234, 1169, 1109, 1098, 1086,1059, 1032, 1003, 982, 945, 922, 863, 829, 814, 774, 756, 731, 691, 663, 580, 532, 513, 495, 480, 468, 445, 426, 407, (cm−1). Analysis calculated for C23H24Cl2N4O2.C4H4O4: C, 56.36; H, 4.90; N, 9.74; Found: C, 56.10; H, 5.06; N, 9.83

reactant | 8-Chloro-3,4-dihydro-2H-1-oxa-4a,9-diaza-anthracen-10-one | 26.02 mmol, 6.18g | ClC=1C=CC=C2C(N3CCCOC3=NC12)=O | C11H9ClN2O2
reactant | 3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1] octane | 21.68 mmol, 5.62 g | ClC1=CC=C(C=C1)N1CC2CCC(C1)N2 | C12H15ClN2
reactant | triethylamine | 26.02 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonic acid | 3.90 mmol, 0.74 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethyl acetamide | 38 ml | CC(=O)N(C)C | C4H9NO
solvent | H2O | O | H2O
product | 8-Chloro-3-{3-[3-(4-chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-propyl}-1H-quinazoline-2,4-dione | 8.3 g, 83.3% | ClC=1C=CC=C2C(N(C(NC12)=O)CCCN1C2CN(CC1CC2)C2=CC=C(C=C2)Cl)=O | C23H24Cl2N4O2
